US07977332B2
Step B—Synthesis of (tert-butoxy)-N-(2-{[(6-chloro(3-pyridyl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide as an intermediate
A stirred solution of 1.5 grams (0.0052 mole) of (tert-butoxy)-N-(2-{[(6-chloro(3-pyridyl))methyl]amino}ethyl)carboxamide and 2.3 mL (0.013 mole) of diisopropylethyl amine in about 15 mL of methylene chloride was cooled to 0° C., and 0.7 mL (0.0052 mole) of (4-methoxyphenyl)methyl chloride in about 3 mL of methylene chloride was added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature, where it stirred during an 18 hour period. After this time, analysis of the reaction mixture by thin layer chromatography (TLC) indicated that no reaction had taken place. The reaction mixture was then heated at reflux for two hours, after which TLC analysis indicated that no reaction had taken place. The methylene chloride solvent was removed under reduced pressure from the reaction mixture, which was replaced with chloroform. The reaction mixture was heated at reflux during one hour, and then it was allowed to cool to ambient temperature, where it stirred during an 18 hour period. After this time TLC analysis indicated the presence of some reaction product. The reaction mixture was then heated at reflux for about a nine hour period and then it was allowed to cool to ambient temperature as it stirred during an additional 18 hour period. After this time the chloroform solvent was removed under reduced pressure from the reaction mixture, which was replaced with acetonitrile. The reaction mixture was then stirred at ambient temperature during a four hour period, warmed to 60° C. where it stirred for a ten hour period, and finally stirred at ambient temperature during a 60 hour period. The reaction mixture was concentrated under reduced pressure to a residue, and the residue was purified with column chromatography on silica gel. Elution was accomplished using 30% ethyl acetate in hexane. Appropriate fractions were combined and concentrated under reduced pressure, yielding 1.6 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | (tert-butoxy)-N-(2-{[(6-chloro(3-pyridyl))methyl]amino}ethyl)carboxamide | 0.0052 mole, 1.5 grams | C(C)(C)(C)OC(=O)NCCNCC=1C=NC(=CC1)Cl | C13H20ClN3O2
reactant | diisopropylethyl amine | 0.013 mole, 2.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (4-methoxyphenyl)methyl chloride | 0.0052 mole, 0.7 mL | COC1=CC=C(C=C1)CCl | C8H9ClO
solvent | methylene chloride | about 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 3 mL | C(Cl)Cl | CH2Cl2
product | (tert-butoxy)-N-(2-{[(6-chloro(3-pyridyl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide | 1.6 grams | C(C)(C)(C)OC(=O)NCCN(CC1=CC=C(C=C1)OC)CC=1C=NC(=CC1)Cl | C21H28ClN3O3
